### PR TITLE
[Merged by Bors] - feat: `a/c ≡ b/c mod m/c → a ≡ b mod m`

### PR DESCRIPTION
**Pull request by YaelDillies**
https://github.com/leanprover-community/mathlib/pull/18119, https://github.com/leanprover-community/mathlib/pull/18666.

* [`algebra.ring.divisibility`@`f1a2caaf51ef593799107fe9a8d5e411599f3996`..`47a1a73351de8dd6c8d3d32b569c8e434b03ca47`](https://leanprover-community.github.io/mathlib-port-status/file/algebra/ring/divisibility?range=f1a2caaf51ef593799107fe9a8d5e411599f3996..47a1a73351de8dd6c8d3d32b569c8e434b03ca47)
* [`data.nat.order.lemmas`@`2258b40dacd2942571c8ce136215350c702dc78f`..`47a1a73351de8dd6c8d3d32b569c8e434b03ca47`](https://leanprover-community.github.io/mathlib-port-status/file/data/nat/order/lemmas?range=2258b40dacd2942571c8ce136215350c702dc78f..47a1a73351de8dd6c8d3d32b569c8e434b03ca47)
* [`data.int.gcd`@`d4f69d96f3532729da8ebb763f4bc26fcf640f06`..`47a1a73351de8dd6c8d3d32b569c8e434b03ca47`](https://leanprover-community.github.io/mathlib-port-status/file/data/int/gcd?range=d4f69d96f3532729da8ebb763f4bc26fcf640f06..47a1a73351de8dd6c8d3d32b569c8e434b03ca47)
* [`data.nat.modeq`@`2ed7e4aec72395b6a7c3ac4ac7873a7a43ead17c`..`47a1a73351de8dd6c8d3d32b569c8e434b03ca47`](https://leanprover-community.github.io/mathlib-port-status/file/data/nat/modeq?range=2ed7e4aec72395b6a7c3ac4ac7873a7a43ead17c..47a1a73351de8dd6c8d3d32b569c8e434b03ca47)
* [`data.int.modeq`@`2ed7e4aec72395b6a7c3ac4ac7873a7a43ead17c`..`47a1a73351de8dd6c8d3d32b569c8e434b03ca47`](https://leanprover-community.github.io/mathlib-port-status/file/data/int/modeq?range=2ed7e4aec72395b6a7c3ac4ac7873a7a43ead17c..47a1a73351de8dd6c8d3d32b569c8e434b03ca47)
* [`algebra.char_p.basic`@`ceb887ddf3344dab425292e497fa2af91498437c`..`47a1a73351de8dd6c8d3d32b569c8e434b03ca47`](https://leanprover-community.github.io/mathlib-port-status/file/algebra/char_p/basic?range=ceb887ddf3344dab425292e497fa2af91498437c..47a1a73351de8dd6c8d3d32b569c8e434b03ca47)
* [`data.zmod.basic`@`297619ec79dedf23525458b6bf5bf35c736fd2b8`..`47a1a73351de8dd6c8d3d32b569c8e434b03ca47`](https://leanprover-community.github.io/mathlib-port-status/file/data/zmod/basic?range=297619ec79dedf23525458b6bf5bf35c736fd2b8..47a1a73351de8dd6c8d3d32b569c8e434b03ca47)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Basic.lean [hunk 1]
```diff
@@ -496,7 +496,7 @@ theorem inv_mul' : (a * b)⁻¹ = a⁻¹ / b := by simp
 #align inv_mul' inv_mul'
 #align neg_add' neg_add'
 
-@[to_additive]
+@[to_additive (attr := simp)]
```
[the remark this answers is not in the document]
Comment (Parcly-Taxel) [reply Mathlib/Algebra/Group/Basic.lean]: If the simp is there in mathlib4 it gives linter errors; removing that simp makes everything check out.

File: Mathlib/Algebra/Group/Basic.lean [hunk 2]
```diff
@@ -496,7 +496,7 @@ theorem inv_mul' : (a * b)⁻¹ = a⁻¹ / b := by simp
 #align inv_mul' inv_mul'
 #align neg_add' neg_add'
 
-@[to_additive]
+@[to_additive] -- Porting note: this is tagged simp in mathlib3, but simp in mathlib4 can prove this
```
[the remark this answers is not in the document]
Comment (Parcly-Taxel) [reply Mathlib/Algebra/Group/Basic.lean:499]: Then how can `simp` be placed there without the linter complaining in the CI?

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Basic.lean:499]: because the simp lemmas are local

File: Mathlib/Data/Int/GCD.lean [hunk 3]
```diff
@@ -306,13 +306,13 @@ theorem gcd_mul_right (i j k : ℤ) : gcd (i * j) (k * j) = gcd i k * natAbs j :
   apply Nat.gcd_mul_right
 #align int.gcd_mul_right Int.gcd_mul_right
 
-theorem gcd_pos_of_non_zero_left {i : ℤ} (j : ℤ) (i_non_zero : i ≠ 0) : 0 < gcd i j :=
-  Nat.gcd_pos_of_pos_left (natAbs j) (natAbs_pos.2 i_non_zero)
-#align int.gcd_pos_of_non_zero_left Int.gcd_pos_of_non_zero_left
+theorem gcd_pos_of_ne_zero_left {i : ℤ} (j : ℤ) (hi : i ≠ 0) : 0 < gcd i j :=
+  Nat.gcd_pos_of_pos_left _ $ natAbs_pos.2 hi
```
Comment (eric-wieser) [inline Mathlib/Data/Int/GCD.lean:310]: Any reason for not using the mathport output?
```suggestion
  Nat.gcd_pos_of_pos_left _ <| natAbs_pos_of_ne_zero hi
```
(and below)

Comment (YaelDillies) [reply Mathlib/Data/Int/GCD.lean:310]: `natAbs_pos_of_ne_zero` is deprecated.

File: Mathlib/Data/Int/ModEq.lean [hunk 4]
```diff
@@ -209,6 +218,32 @@ lemma of_mul_right (m : ℤ) : a ≡ b [ZMOD n * m] → a ≡ b [ZMOD n] :=
...
+theorem cancel_right_div_gcd (hm : 0 < m) (h : a * c ≡ b * c [ZMOD m]) : a ≡ b [ZMOD m / gcd m c] :=
+  by
+  letI d := gcd m c
+  have hmd := gcd_dvd_left m c
+  have hcd := gcd_dvd_right m c
+  rw [modEq_iff_dvd] at h⊢
+  refine' Int.dvd_of_dvd_mul_right_of_gcd_one _ _
+  -- porting note: The `show` below doesn't assign the metavariable properly, so we need an extra
+  -- `swap`
+  swap
```
Comment (eric-wieser) [inline Mathlib/Data/Int/ModEq.lean:231]: More accurately, `show` is no longer selecting the goal that matches, right?

File: Mathlib/Data/Nat/Order/Lemmas.lean [hunk 5]
```diff
@@ -205,6 +205,14 @@ theorem eq_zero_of_dvd_of_lt {a b : ℕ} (w : a ∣ b) (h : b < a) : b = 0 :=
     ((Nat.div_eq_zero_iff (lt_of_le_of_lt (zero_le b) h)).mpr h)
 #align nat.eq_zero_of_dvd_of_lt Nat.eq_zero_of_dvd_of_lt
 
+--porting note: Needed to give an explicit argument to `mul_add_one`
+theorem le_of_lt_add_of_dvd (h : a < b + n) : n ∣ a → n ∣ b → a ≤ b :=
+  by
+  rintro ⟨a, rfl⟩ ⟨b, rfl⟩
+  rw [← mul_add_one n] at h
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Order/Lemmas.lean:212]:
```suggestion
theorem le_of_lt_add_of_dvd (h : a < b + n) : n ∣ a → n ∣ b → a ≤ b := by
  rintro ⟨a, rfl⟩ ⟨b, rfl⟩
  --porting note: Needed to give an explicit argument to `mul_add_one`
  rw [← mul_add_one n] at h
```

File: Mathlib/Data/ZMod/Basic.lean [hunk 6]
```diff
@@ -1070,6 +1073,28 @@ theorem valMinAbs_natAbs_eq_min {n : ℕ} [hpos : NeZero n] (a : ZMod n) :
...
+#align zmod.val_min_abs_nat_cast_of_le_half ZMod.valMinAbs_natCast_of_le_half
+
+theorem valMinAbs_natCast_of_half_lt (ha : n / 2 < a) (ha' : a < n) :
+    (a : ZMod n).valMinAbs = a - n := by
+  cases n
+  · cases not_lt_bot ha'
+  · simp [valMinAbs_def_pos, val_nat_cast, Nat.mod_eq_of_lt ha', ha.not_le]
+#align zmod.val_min_abs_nat_cast_of_half_lt ZMod.valMinAbs_natCast_of_half_lt
+
+--porting note: There was an extraneous `nat_` in the mathlib name
```
Comment (eric-wieser) [inline Mathlib/Data/ZMod/Basic.lean:1090]:
```suggestion
--porting note: There was an extraneous `nat_` in the mathlib3 name
```

File: Mathlib/Data/Int/ModEq.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Data/Int/ModEq.lean:231]: No it does. I suggest you try it out in gitpod. Wth the `swap`, you get a `?refine'1` metavariable in the goal. With `swap`, you get a `sorryAx` instead. I think this is a bug.

File: Mathlib/Data/Int/GCD.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Data/Int/GCD.lean:310]: Huh, ok then. I think sticking to `<|` is probably still better, but not a big deal.

**Review by eric-wieser — APPROVED** [review]
Please clarify the porting comment about `swap`, otherwise LGTM!

bors d+

File: Mathlib/Data/Int/ModEq.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Data/Int/ModEq.lean:231]: It's doing exactly what I describe. The error is:
```
type mismatch
  this
has type
  m / ↑d ∣ c / ↑d * (b - a) : Prop
but is expected to have type
  ℤ : Type
All Messages (3)
```
`show` is supposed to be choosing a goal based on the type you give it, but it seems to be giving up and using the first one.

Comment (eric-wieser) [reply Mathlib/Data/Int/ModEq.lean:231]: mwe:
```lean
example (P Q : Prop) : P ∧ Q := by
  constructor
  show Q  -- fails
  sorry
  sorry
```

Comment (eric-wieser) [reply Mathlib/Data/Int/ModEq.lean]: leanprover-community/mathlib4#3305

**Comment by YaelDillies** [comment]
bors merge

File: Mathlib/Algebra/Group/Basic.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Algebra/Group/Basic.lean:499]: I think you need to have `simp` only on the multiplicative version?

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Basic.lean]: It doesn't make "everything check out" since the proof of my new lemma broke because it was missing. However, it's easy to work around it and potentially non trivial to solve, so I'm leaving a porting note and outsourcing the problem to #3309.

This doesn't have anything to do with additive vs multiplicative stuff. At this level, both worlds have the same simp lemmas.

**Comment by YaelDillies** [comment]
Should be good this time.

bors merge
